US07514419B2
To a solution of (4-bromo-3,5-dimethyl-phenoxy)triisopropylsilane (8.0 g, 23.30 mmol) in THF (50 mL) was added a solution of n-butyllithium (2.5 M in THF, 90 mL) at −78° C. The heterogeneous mixture was stirred at −78° C. for 1 h A solution of 4-methoxymethoxy-benzaldehyde (3.09 g, 18.58 mmol) in THF (5 mL) was added and the mixture was stirred at −78° C. for 1 h then warmed up to r.t. The reaction was then diluted with ethyl acetate and water, the layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried (MgSO4), filtered and concentrated to afford crude (2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-(4-methoxymethoxyphenyl)methanol. Carried on to the next step without further purification.

reactant | (4-bromo-3,5-dimethyl-phenoxy)triisopropylsilane | 23.30 mmol, 8.0 g | BrC1=C(C=C(O[Si](C(C)C)(C(C)C)C(C)C)C=C1C)C | C17H29BrOSi
reactant | n-butyllithium | 2.5 M, 90 mL | C(CCC)[Li]
reactant | 4-methoxymethoxy-benzaldehyde | 18.58 mmol, 3.09 g | COCOC1=CC=C(C=O)C=C1 | C9H10O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (2,6-dimethyl-4-triisopropylsilanyloxyphenyl)-(4-methoxymethoxyphenyl)methanol | CC1=C(C(=CC(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C)C(O)C1=CC=C(C=C1)OCOC | C26H40O4Si
